US03993683
[1-(4'-methoxy-4-biphenylyl)-ethylthio]acetic acid methyl ester
(4'-Methoxy-4-biphenyl)-methyl-ketone [see W. S. Johnson et al, J. Amer. Chem. Soc. 68, 1648 (1946)] was reduced with sodium borohydride to 1-(4'-methoxy-4-biphenylyl)-ethanol (m.p. 120°-122° C, from cyclohexane), and the carbinol was converted into 1-(4'-methoxy-4-biphenylyl)-1-chloroethane, m.p. 122°-124° C (from cyclohexane), with hydrogen chloride. 5.2 gm of 1-(4'-methoxy-4-biphenylyl)-1-chloroethane (0.021 mol) were admixed in 21 ml of dry dimethyl sulfoxide with 2.7 gm (0.026 mol) of thioglycolic acid methyl ester and then with 3.5 gm (0.026 mol) of dry potassium carbonate. The mixture was stirred at room temperature for 45 minutes. The reaction product was precipitated with water, suction-filtered off, washed and dried. Yield: 6.8 gm (100% of theory); m.p. 59°-61° C. A sample recrystallized from cyclohexane, analized as follows:

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 1-(4'-methoxy-4-biphenylyl)-ethanol | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)O | C15H16O2
reactant | 1-(4'-methoxy-4-biphenylyl)-1-chloroethane | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)Cl | C15H15ClO
reactant | hydrogen chloride | Cl | ClH
reactant | 1-(4'-methoxy-4-biphenylyl)-1-chloroethane | 0.021 mol, 5.2 gm | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)Cl | C15H15ClO
reactant | thioglycolic acid methyl ester | 0.026 mol, 2.7 gm | COC(CS)=O | C3H6O2S
reactant | potassium carbonate | 0.026 mol, 3.5 gm | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 21 ml | CS(=O)C | C2H6OS
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | carbinol | CO | CH4O
product | [1-(4'-methoxy-4-biphenylyl)-ethylthio]acetic acid methyl ester | COC(CSC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)OC)=O | C18H20O3S
